US05643878
d) 5(S)-(Boc-amino)-4(S)-(tert-butyldimethylsilyloxy)-6-phenyl-2(R)-(p-benzyloxyphenylmethyl)-hexanoic acid
Analogously to Example 1j), 1.4 g (2.69 mmol) of 5(S)-(Boc-amino)-4(S)-hydroxy-6-phenyl-2(R)-(p-benzyloxyphenylmethyl)-hexanoic acid in 2.9 ml of DMF are silylated with 1.87 g (12.4 mmol) of tert-butyldimethylchlorosilane and 1.5 g (22 mmol) of imidazole. Hydrolysis of the silyl ester function with 2.2 g of potassium carbonate in 63 ml of methanol/THF/water 3:1:1 and column chromatography (SiO2, hexane/ethyl acetate 2:1) of the crude product yields the title compound: TLC Rf (D)=0.17; tRet (II)=33.7 min; FAB-MS (M+H)+ =634.

reactant | 5(S)-(Boc-amino)-4(S)-hydroxy-6-phenyl-2(R)-(p-benzyloxyphenylmethyl)-hexanoic acid | 2.69 mmol, 1.4 g | C(=O)(OC(C)(C)C)N[C@H]([C@H](C[C@H](C(=O)O)CC1=CC=C(C=C1)OCC1=CC=CC=C1)O)CC1=CC=CC=C1 | C31H37NO6
reactant | tert-butyldimethylchlorosilane | 12.4 mmol, 1.87 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | imidazole | 22 mmol, 1.5 g | N1C=NC=C1 | C3H4N2
reactant | potassium carbonate | 2.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 2.9 ml | CN(C)C=O | C3H7NO
solvent | methanol THF water | 63 ml | CO.C1CCOC1.O
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 5(S)-(Boc-amino)-4(S)-(tert-butyldimethylsilyloxy)-6-phenyl-2(R)-(p-benzyloxyphenylmethyl)-hexanoic acid | C(=O)(OC(C)(C)C)N[C@H]([C@H](C[C@H](C(=O)O)CC1=CC=C(C=C1)OCC1=CC=CC=C1)O[Si](C)(C)C(C)(C)C)CC1=CC=CC=C1 | C37H51NO6Si
